US07615549B2
(a) 2-(4-nitrophenyl)-[1,2]thiazinane-1,1-dioxide
500 mg (3.7 mmol) [1,2]thiazinane-1,1-dioxide, dissolved in 10 ml DMF, are added to a suspension of 163 mg sodium hydride dispersion in mineral oil (60%, 4.07 mmol) in 5 ml DMF. The mixture is stirred for 15 minutes, then a solution of 522 mg (3.7 mmol) 1-fluoro-4-nitrobenzene in 10 ml DMF is added dropwise. After two hours the reaction mixture is poured onto ice water. The solid is filtered off, washed with water and dried.

reactant | [1,2]thiazinane-1,1-dioxide | 3.7 mmol, 500 mg | S1(NCCCC1)(=O)=O | C4H9NO2S
reactant | sodium hydride | 163 mg | [H-].[Na+]
reactant | 1-fluoro-4-nitrobenzene | 3.7 mmol, 522 mg | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 2-(4-nitrophenyl)-[1,2]thiazinane-1,1-dioxide | [N+](=O)([O-])C1=CC=C(C=C1)N1S(CCCC1)(=O)=O | C10H12N2O4S
